US07390830B1
An H2O (25 mL) solution of LiOH (1.66 g) was added to a THF (60 mL) solution of ethyl 1-(4-chlorobenzyl)nipecotate. The resulting reaction mixture was stirred at room temperature for 1.5 hours. The solvent was removed under reduced pressure to provide an amorphous solid. The obtained crude product was purified by column chromatography (SiO2, 50% methanol-dichloromethane) to afford 1-(4-chlorobenzyl)nipecotic acid (9.75 g, 98.2%) as an off-while amorphous solid. The purity was determined by RPLC/MS (>95%). ESI/MS m/e 254.0 (M++H, C13H17ClNO2).

reactant | H2O | 25 mL | O | H2O
reactant | LiOH | 1.66 g | [Li+].[OH-]
reactant | ethyl 1-(4-chlorobenzyl)nipecotate | ClC1=CC=C(CN2CC(C(=O)OCC)CCC2)C=C1 | C15H20ClNO2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-(4-chlorobenzyl)nipecotic acid | 9.75 g, 98.2% | ClC1=CC=C(CN2CC(C(=O)O)CCC2)C=C1 | C13H16ClNO2
